.SubCkt GC321AD72E103KX01 [_net1] [_net2]
.param K01=9.8359e-09
.param M01=1.0000e+10
.param L02=4.1503e-10
.param M03=2.7807e-02
.param K04=2.4558e-06
.param M04=1.5936e+03
.param K05=3.9661e-06
.param M05=1.3324e+02
.param K06=4.0066e-06
.param M06=2.7314e+01
.param K07=3.7956e-06
.param M07=6.1221e+00
.param K08=3.2238e-06
.param M08=1.3938e+00
.param K09=2.7369e-06
.param M09=2.8509e-01
.param K10=2.1683e-06
.param M10=7.0704e-02
.param L11=1.0762e-11
.param M11=1.0788e-01
.param L12=1.1041e-11
.param M12=9.5743e-02
.param K13=6.8883e-08
.param L13=1.3898e-11
.param M13=6.1349e-02
.param K14=1.4578e-08
.param L14=2.3654e-11
.param M14=1.2245e-01
.param K15=5.1181e-11
.param L15=4.0794e-11
.param M15=1.6543e+00
.param K16=1.9536e-11
.param L16=7.5464e-11
.param M16=1.7110e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net1516 {K15}
L15 _net1415 _net1516 {L15}
R15 _net1415 _net1516 {M15}
C16 _net1516 _net2 {K16}
L16 _net1516 _net2 {L16}
R16 _net1516 _net2 {M16}
.ends GC321AD72E103KX01

.SubCkt GC321AD72E153KX01 [_net1] [_net2]
.param K01=1.4491e-08
.param M01=6.6667e+09
.param L02=3.1918e-10
.param M03=2.0480e-02
.param K04=3.8398e-06
.param M04=1.0458e+03
.param K05=6.2788e-06
.param M05=8.8688e+01
.param K06=6.4306e-06
.param M06=1.8222e+01
.param K07=6.1013e-06
.param M07=4.1712e+00
.param K08=5.5002e-06
.param M08=9.4614e-01
.param K09=3.8272e-06
.param M09=2.8831e-01
.param K10=3.5572e-06
.param M10=5.4775e-02
.param L11=2.9366e-11
.param M11=1.0563e+00
.param L12=8.8305e-11
.param M12=2.8707e-01
.param K13=7.5034e-08
.param L13=2.1088e-11
.param M13=8.6240e-02
.param K14=1.3607e-08
.param L14=4.9502e-11
.param M14=1.5803e-01
.param K15=1.7931e-10
.param L15=1.2929e-11
.param M15=6.6445e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GC321AD72E153KX01

.SubCkt GC321BD72E223KX03 [_net1] [_net2]
.param K01=2.2255e-08
.param M01=4.5455e+09
.param L02=3.5594e-10
.param M03=1.5866e-02
.param K04=6.0620e-06
.param M04=4.9030e+02
.param K05=8.8673e-06
.param M05=4.0739e+01
.param K06=8.8489e-06
.param M06=7.1897e+00
.param K07=7.8028e-06
.param M07=1.3919e+00
.param K08=6.2223e-06
.param M08=2.5905e-01
.param K09=4.5214e-06
.param M09=4.7474e-02
.param L10=1.0212e-10
.param M10=1.6565e-01
.param K11=1.2649e-07
.param L11=2.2977e-11
.param M11=7.5402e-02
.param K12=2.7763e-08
.param L12=4.4602e-11
.param M12=1.1009e-01
.param K13=2.7841e-11
.param L13=5.6865e-11
.param M13=2.7739e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GC321BD72E223KX03

.SubCkt GC321AD7LP103KX18 [_net1] [_net2]
.param K01=9.8359e-09
.param M01=1.0000e+10
.param L02=4.1503e-10
.param M03=2.7807e-02
.param K04=2.4558e-06
.param M04=1.5936e+03
.param K05=3.9661e-06
.param M05=1.3324e+02
.param K06=4.0066e-06
.param M06=2.7314e+01
.param K07=3.7956e-06
.param M07=6.1221e+00
.param K08=3.2238e-06
.param M08=1.3938e+00
.param K09=2.7369e-06
.param M09=2.8509e-01
.param K10=2.1683e-06
.param M10=7.0704e-02
.param L11=1.0762e-11
.param M11=1.0788e-01
.param L12=1.1041e-11
.param M12=9.5743e-02
.param K13=6.8883e-08
.param L13=1.3898e-11
.param M13=6.1349e-02
.param K14=1.4578e-08
.param L14=2.3654e-11
.param M14=1.2245e-01
.param K15=5.1181e-11
.param L15=4.0794e-11
.param M15=1.6543e+00
.param K16=1.9536e-11
.param L16=7.5464e-11
.param M16=1.7110e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net1516 {K15}
L15 _net1415 _net1516 {L15}
R15 _net1415 _net1516 {M15}
C16 _net1516 _net2 {K16}
L16 _net1516 _net2 {L16}
R16 _net1516 _net2 {M16}
.ends GC321AD7LP103KX18

.SubCkt GC321AD7LP153KX18 [_net1] [_net2]
.param K01=1.4491e-08
.param M01=6.6667e+09
.param L02=3.1918e-10
.param M03=2.0480e-02
.param K04=3.8398e-06
.param M04=1.0458e+03
.param K05=6.2788e-06
.param M05=8.8688e+01
.param K06=6.4306e-06
.param M06=1.8222e+01
.param K07=6.1013e-06
.param M07=4.1712e+00
.param K08=5.5002e-06
.param M08=9.4614e-01
.param K09=3.8272e-06
.param M09=2.8831e-01
.param K10=3.5572e-06
.param M10=5.4775e-02
.param L11=2.9366e-11
.param M11=1.0563e+00
.param L12=8.8305e-11
.param M12=2.8707e-01
.param K13=7.5034e-08
.param L13=2.1088e-11
.param M13=8.6240e-02
.param K14=1.3607e-08
.param L14=4.9502e-11
.param M14=1.5803e-01
.param K15=1.7931e-10
.param L15=1.2929e-11
.param M15=6.6445e-01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GC321AD7LP153KX18

.SubCkt GC321BD7LP223KX19 [_net1] [_net2]
.param K01=2.2255e-08
.param M01=4.5455e+09
.param L02=3.5594e-10
.param M03=1.5866e-02
.param K04=6.0620e-06
.param M04=4.9030e+02
.param K05=8.8673e-06
.param M05=4.0739e+01
.param K06=8.8489e-06
.param M06=7.1897e+00
.param K07=7.8028e-06
.param M07=1.3919e+00
.param K08=6.2223e-06
.param M08=2.5905e-01
.param K09=4.5214e-06
.param M09=4.7474e-02
.param L10=1.0212e-10
.param M10=1.6565e-01
.param K11=1.2649e-07
.param L11=2.2977e-11
.param M11=7.5402e-02
.param K12=2.7763e-08
.param L12=4.4602e-11
.param M12=1.1009e-01
.param K13=2.7841e-11
.param L13=5.6865e-11
.param M13=2.7739e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GC321BD7LP223KX19
